US09216173B2
To tert-butyl (1S,2R)-2-(5-(4-chloro-6-methylpyridin-2-ylamino)-6-cyanopyridin-3-ylamino)cyclohexylcarbamate (PrepEx 1.7) (50 mg, 0.11 mmol), 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoxazole (27 mg, 0.13 mmol), and tricyclohexylphosphine (4 mg, 0.01 mmol) in a nitrogen purged vial was added dioxane (0.6 ml) and potassium phosphate tribasic (1.25 M in water, 0.26 ml, 0.33 mmol). The reaction mixture was purged with nitrogen, and then Pd2 dba3 (5 mg, 0.005 mmol) was added. The reaction vessel was sealed and heated at 100° C. for 1 hour. The reaction mixture was diluted with ethyl acetate (10 mL) and washed with aqueous saturated sodium bicarbonate solution (10 mL). The organics were separated, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (5-50% ethyl acetate/hexanes, linear gradient) to give tert-butyl (1S,2R)-2-(6-cyano-5-(6-methyl-4-(3-methylisoxazol-4-yl)pyridin-2-ylamino)pyridin-3-ylamino)cyclohexylcarbamate. MS ESI calc'd. for C27H34N7O3 [M+H]+ 504. found 504.

reactant | tert-butyl (1S,2R)-2-(5-(4-chloro-6-methylpyridin-2-ylamino)-6-cyanopyridin-3-ylamino)cyclohexylcarbamate | 0.11 mmol, 50 mg | ClC1=CC(=NC(=C1)C)NC=1C=C(C=NC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C23H29ClN6O2
reactant | 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoxazole | 0.13 mmol, 27 mg | CC1=NOC=C1B1OC(C(O1)(C)C)(C)C | C10H16BNO3
reactant | tricyclohexylphosphine | 0.01 mmol, 4 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate tribasic | 0.33 mmol, 1.25 M, 0.26 ml | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd2 dba3 | 0.005 mmol, 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 0.6 ml | O1CCOCC1 | C4H8O2
product | tert-butyl (1S,2R)-2-(6-cyano-5-(6-methyl-4-(3-methylisoxazol-4-yl)pyridin-2-ylamino)pyridin-3-ylamino)cyclohexylcarbamate | C(#N)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C=1C(=NOC1)C)C | C27H33N7O3
